US04272537
Hydrogen sulfide is slowly bubbled with a solution of 3,5-diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-methylthio-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide (1.0 g., 0.0029 mole) in pyridine (25 ml.) containing triethylamine (1.5 ml.) for a period of five hours. Nitrogen is bubbled into the reaction mixture to remove excess hydrogen sulfide which is then poured into ice water (100 ml.). The collected solid is dissolved in hot water (75 ml.) containing hydrochloric acid (0.5 ml.) then cooled to give 3,5-diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-mercapto-1,3,5-triazin-2-yl)-2-pyrazincarboxamide hydrochloride which melts at 232° C. with decomposition.

reactant | Hydrogen sulfide | S | H2S
reactant | 3,5-diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-methylthio-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide | 0.0029 mole, 1.0 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)NC1=NC(=NC(N1)(C)C)SC | C11H15ClN8OS
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-mercapto-1,3,5-triazin-2-yl)-2-pyrazincarboxamide hydrochloride | Cl.NC=1C(=NC(=C(N1)N)Cl)C(=O)NC1=NC(=NC(N1)(C)C)S | InChI=1S/C10H13ClN8OS.ClH/c1-10(2)18-8(17-9(21)19-10)16-7(20)3-5(12)15-6(13)4(11)14-3;/h1-2H3,(H4,12,13,15)(H3,16,17,18,19,20,21);1H
